US05420293
Dimethyl 4-(trifluoromethyl)-4-nitropimelate
27 g (0.465 mol) of potassium fluoride (calcined) and 86 g (1 mol) of methyl acrylate are initially charged to 50 ml of acetonitrile at 0°-5° C. and 60 g (0.465 mol) of 2,2,2-trifluoronitroethane are added dropwise with stirring over a period of 60 min. The reaction is notably exothermic (up to about 60° C.). After being cooled to room temperature the reaction mixture is further stirred for 16 h. The mixture is filtered, the salt is washed with acetonitrile, and the solvent and unreacted starting material are stripped off on a rotary evaporator.

reactant | potassium fluoride | 0.465 mol, 27 g | [F-].[K+]
reactant | methyl acrylate | 1 mol, 86 g | C(C=C)(=O)OC | C4H6O2
reactant | 2,2,2-trifluoronitroethane | 0.465 mol, 60 g | FC(C[N+](=O)[O-])(F)F | C2H2F3NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Dimethyl 4-(trifluoromethyl)-4-nitropimelate | FC(C(CCC(=O)OC)(CCC(=O)OC)[N+](=O)[O-])(F)F | C10H14F3NO6
